US07439249B2
[6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methylamine (0.70 g, 1.01 mmol) is dissolved in DCM (10 ml), cooled to 0° C. DIEA (0.35 ml, 2.02 mmol) and Cbz-Cl (0.17 g, 1.01 mmol) are added. The mixture is stirred for 1 hour at room temperature. The reaction mixture is concentrated and the residue is purified by column chromatography (10% ethyl acetate in hexanes) to provide [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-ylmethyl]-carbamic acid benzyl ester.

reactant | [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methylamine | 1.01 mmol, 0.70 g | C(C)(C)(C)[Si](OC1=CC=C2C=C(NC2=C1)NC)(C)C | C15H24N2OSi
reactant | DIEA | 2.02 mmol, 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Cbz-Cl | 1.01 mmol, 0.17 g | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-ylmethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC=1NC2=CC(=CC=C2C1)O[Si](C)(C)C(C)(C)C)=O | C23H30N2O3Si
